Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
statins
 
Attending: ___.
 
Chief Complaint:
rest pain 
 
Major Surgical or Invasive Procedure:
Left Lower Extremity Angio from Right groin access with SFA PTA

 
History of Present Illness:
HPI: ___ woman with history of peripheral arterial
disease who presented to clinic earlier today with worsening 
left
lower extremity rest pain.  She is a direct admit from clinic 
for
add-on ___ for angioplasty.  Her vascular history includes: 

 1.  Left peroneal artery angioplasty followed by suction
 embolectomy of left peroneal artery with lysis catheter and 
TPA,
 ___.
 2.  Right external iliac artery stent, ___.
 3.  Left superficial femoral artery angioplasty and right
 superficial femoral artery stent, ___.
 4.  Left superficial femoral, popliteal and peroneal artery
 angioplasties ___. 

 In ___ patient reported improved rest pain and healing
ulcers.  Her antibiotics were also stopped at that time.  She 
was
pain-free and ambulatory around the house.  She did use a cane
and walker for longer distance.

2 to 3 weeks ago she thinks she bumped her left great toe 
against
a rug and has a nonhealing punctate wound, currently scarred.  
In
the last couple days she has had intermittent left distal foot
pain, as well as erythema and swelling.  She initially thought 
it
was acute gout flare.  She has been taking 5 mg oxycodone every 
6
hours as needed today (total ___.

of note, she was recently admitted to ___ for CHF 
exacerbation
and PNA.  She was started on Augmentin 825 twice daily.  She is
on day 4 of 6.

 
Past Medical History:
1.  Atrial fibrillation.
2.  Peripheral arterial disease as described.
3.  Hypercholesterolemia.
4.  History of coronary artery disease.
5.  Arthritis/gout.

PSurgHx:
1.  In ___, intestinal resection.
2.  ___, melanoma excision.
3.  ___, left lower extremity arteriogram with atherectomy and
angioplasty.
4.  ___, angioplasty and stent of R SFA/AK popliteal 
occlusion

 
Social History:
___
Family History:
mother, deceased ___, had MI during her lifetime but unknown when
father,deceased ~___, no heart problems
brother, living ___, has a stent
sister, living ___, "heart issues"
sister, living ___, no issues
 
Physical Exam:
AFVSS
GENERAL: [x]NAD  [x]A/O x 3  []intubated/sedated []abnormal
CV: [x]RRR  [] irregularly irregular []no MRG  []Nl S1S2
[]abnormal
PULM: []CTA b/l  [x]no respiratory distress  [x]abnormal:
crackles to bilateral lung bases 
ABD: [x]soft  [x]Nontender  []appropriately tender 
[]nondistended  [x]no rebound/guarding  []abnormal
WOUND: []CD&I  []no erythema/induration [x]abnormal: erythema to
dorm of left foot
EXTREMITIES: [x]no CCE []abnormal
PULSES: R: p/-/d/d/   L: p/-/d/d/

 
Pertinent Results:
___ 06:25AM BLOOD WBC-7.8 RBC-4.05 Hgb-8.3* Hct-31.3* 
MCV-77* MCH-20.5* MCHC-26.5* RDW-20.9* RDWSD-57.5* Plt ___
___ 05:40AM BLOOD WBC-10.4* RBC-4.26 Hgb-8.6* Hct-33.0* 
MCV-78* MCH-20.2* MCHC-26.1* RDW-21.2* RDWSD-58.4* Plt ___
___ 01:45PM BLOOD WBC-6.1 RBC-4.34 Hgb-8.7* Hct-34.2 
MCV-79* MCH-20.0* MCHC-25.4* RDW-20.9* RDWSD-60.0* Plt ___
___ 07:55PM BLOOD WBC-6.6 RBC-4.21 Hgb-8.6* Hct-33.0* 
MCV-78* MCH-20.4* MCHC-26.1* RDW-21.2* RDWSD-59.6* Plt ___
___ 05:41AM BLOOD ___
___ 08:45AM BLOOD ___
___ 12:35PM BLOOD ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD ___ PTT-92.2* ___
___ 06:25AM BLOOD Glucose-100 UreaN-19 Creat-1.0 Na-137 
K-4.3 Cl-95* HCO3-29 AnGap-13
___ 03:30PM BLOOD Glucose-120* UreaN-20 Creat-1.0 Na-136 
K-4.0 Cl-93* HCO3-29 AnGap-14
___ 05:40AM BLOOD Glucose-178* UreaN-19 Creat-0.9 Na-137 
K-3.8 Cl-95* HCO3-27 AnGap-15
___ 01:45PM BLOOD Glucose-112* UreaN-20 Creat-0.9 Na-141 
K-4.1 Cl-100 HCO3-29 AnGap-12
___ 06:25AM BLOOD Calcium-9.9 Phos-3.2 Mg-1.9
___ 03:30PM BLOOD Calcium-9.2 Phos-3.2 Mg-1.9
___ 05:40AM BLOOD Calcium-9.5 Phos-3.2 Mg-1.8
 
Brief Hospital Course:
Ms. ___ was admitted from the clinic in the setting of 
ischemic rest pain.  Her coumadin was held and she was placed on 
a heparin drip.  Vascular studies were obtained in the office on 
the day of admission.  

Events: 
 ___ patient feeling better, OOB and activity as tolerated, 
home medications started
 ___ angio with SFA PTA, hep gtt stopped  
 ___ Asx desat to ___ in AM, corrected w/ 15 L facemask; 
CXR w/ congestion  
 ___ Cards consult -> lasix 40 IV & switch to home lasix 40 
PO  
 ___ Doing well, started on hep gtt ___ sig rest pain; pain 
improved w/ tramadol  
 
At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient 
will follow up with Dr. ___ routine. The patient was given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
2. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
3. Metoprolol Succinate XL 200 mg PO DAILY 
4. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
5. Diltiazem Extended-Release 240 mg PO DAILY 
6. Ezetimibe 10 mg PO DAILY 
7. Warfarin 3 mg PO DAILY16 
8. Furosemide 40 mg PO DAILY 
9. Clopidogrel 75 mg PO DAILY 
10. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line  
2.  Calcium Carbonate 500 mg PO QID:PRN heartburn  
3.  Docusate Sodium 100 mg PO BID  
4.  Milk of Magnesia 30 mL PO Q6H:PRN Constipation - Second Line 

  Reason for PRN duplicate override: Alternating agents for 
similar severity 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
6.  Senna 17.2 mg PO HS  
7.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
use sparingly - it can alter the effects of warfarin.  Alternate 
with Tylenol.  
RX *tramadol 50 mg 1 tablet(s) by mouth q 6 hours prn Disp #*20 
Tablet Refills:*0 
8.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
9.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  
10.  Clopidogrel 75 mg PO DAILY  
11.  Diltiazem Extended-Release 240 mg PO DAILY  
12.  Ezetimibe 10 mg PO DAILY  
13.  Furosemide 40 mg PO DAILY  
14.  Metoprolol Succinate XL 200 mg PO DAILY  
15.  Omeprazole 20 mg PO DAILY  
16.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY  
17.  Warfarin 3 mg PO DAILY16  

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
Peripheral Arterial Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER SURGERY:
 - You were in the hospital for surgery. It is normal to feel 
tired or "washed out" after surgery, and this feeling should 
improve over the first few days to week. 
 - Resume your regular activities as tolerated, but please 
follow your weight bearing precautions strictly at all times.
  
  MEDICATIONS:
   -Take Tylenol ___ every 6 hours around the clock. This is 
an over the counter medication.
   -Please take all medications as prescribed by your physicians 
at discharge.
   -Continue all home medications unless specifically instructed 
to stop by your surgeon.
       
 ANTICOAGULATION:
 - Please take Warfarin as prescribed for your afib
 - Please take Plavix as prescribed
 - Do not take Aspirin. 

 WOUND CARE:
 - You may shower.
 - Incision may be left open to air unless actively draining. If 
draining, you may apply a gauze dressing secured with paper 
tape.

 DANGER SIGNS:
 Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
 - Increasing pain that is not controlled with pain medications
 - Increasing redness, swelling, drainage, or other concerning 
changes in your incision
 - Persistent or increasing numbness, tingling, or loss of 
sensation
 - Fever greater than 101.4
 - Shaking chills
 - Chest pain
 - Shortness of breath
 - Nausea or vomiting with an inability to keep food, liquid, 
medications down
 - Any other medical concerns
  
 FOLLOW UP:
 - Please follow up with the vascular surgery office in 1 month. 
      
 - Please follow up with your primary care doctor regarding this 
admission within ___ weeks and for any new medications/refills.
 
Followup Instructions:
___